US07622492B2
A mixture of 2,6-dichloro-phenylhydrazine hydrochloride (11.7 g, 54.8 mmol) in 1 M NaOH (55 mL), brine (200 mL) and saturated sodium bicarbonate (100 mL) was extracted with dichloromethane (3×200 mL). The organic layers were combined, dried (sodium sulfate), filtered and evaporated to give 2,6-dichloro-phenylhydrazine (9.88 g, quantitative).

reactant | 2,6-dichloro-phenylhydrazine hydrochloride | 54.8 mmol, 11.7 g | Cl.ClC1=C(C(=CC=C1)Cl)NN
solvent | NaOH | 1 M, 55 mL | [OH-].[Na+]
solvent | brine | 200 mL | [Cl-].[Na+].O
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | 2,6-dichloro-phenylhydrazine | 9.88 g | ClC1=C(C(=CC=C1)Cl)NN | C6H6Cl2N2
